US09371280B2
In a manner similar to the method described in Example 14, 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid (prepared as described in US20100152190A1) was reacted with 3,6,9,12-tetraoxatetradecane-1,14-diol to give 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethyl ester, hydrochloride. MS (ES+) m/z calcd. for C41H50Cl2F2N3O9: [(M+H)+]836. found: 836.

reactant | 4-((2R,3S,4R,5S)-3-(3-chloro-2-fluorophenyl)-4-(4-chloro-2-fluorophenyl)-4-cyano-5-neopentylpyrrolidine-2-carboxamido)-3-methoxybenzoic acid | ClC=1C(=C(C=CC1)[C@H]1[C@@H](N[C@H]([C@]1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)C(=O)NC1=C(C=C(C(=O)O)C=C1)OC)F | C31H29Cl2F2N3O4
reactant | 3,6,9,12-tetraoxatetradecane-1,14-diol | C(COCCOCCOCCOCCO)O | C10H22O6
product | 4-{[(2R,3S,4R,5S)-4-(4-chloro-2-fluoro-phenyl)-3-(3-chloro-2-fluoro-phenyl)-4-cyano-5-(2,2-dimethyl-propyl)-pyrrolidine-2-carbonyl]-amino}-3-methoxy-benzoic acid 2-(2-{2-[2-(2-hydroxy-ethoxy)-ethoxy]-ethoxy}-ethoxy)-ethyl ester, hydrochloride | Cl.OCCOCCOCCOCCOCCOC(C1=CC(=C(C=C1)NC(=O)[C@@H]1N[C@H]([C@]([C@H]1C1=C(C(=CC=C1)Cl)F)(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)OC)=O | InChI=1S/C41H49Cl2F2N3O9.ClH/c1-40(2,3)24-34-41(25-46,29-10-9-27(42)23-31(29)44)35(28-6-5-7-30(43)36(28)45)37(48-34)38(50)47-32-11-8-26(22-33(32)52-4)39(51)57-21-20-56-19-18-55-17-16-54-15-14-53-13-12-49;/h5-11,22-23,34-35,37,48-49H,12-21,24H2,1-4H3,(H,47,50);1H/t34-,35-,37+,41-;/m0./s1
